US06072089
To a mixture of 776 g of 2-ethyl-2-hexenal (purity: 97.6%, 6.0 mol), 324 g (4.0 mol) of 37% formalin, and 550 g of methanol heated to 50° C. was added dropwise with stirring 64 g (0.4 mol) of a 25% aqueous solution of sodium hydroxide over one hour. After the dropping was completed, the mixture was further stirred at 50° C. for 3 hours. The reaction mixture was analyzed by gas chromatography (the internal standard method with diethylene glycol dimethyl ether as an internal standard), and the yields of 3,5-diethyl-5,6-dihydro-2H-2-pyranol based on the used formaldehyde and the consumed 2-ethyl-2-hexenal were found to be 26% and 30%, respectively.

reactant | 2-ethyl-2-hexenal | 6.0 mol, 776 g | C(C)C(C=O)=CCCC | C8H14O
reactant | formalin | 4.0 mol, 324 g | C=O | CH2O
reactant | methanol | 550 g | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
product | 3,5-diethyl-5,6-dihydro-2H-2-pyranol | C(C)C=1C(OCC(C1)CC)O | C9H16O2
